US04783462
4-Chloro-5-(3-chloropropyloxy)-2-t-butyl-3(2H) pyridazinone
Further, by using 1-bromo-2-chloroethane instead of 1-bromo-3-chloropropane, 4-chloro-5-(2-chloroethyloxy)-2-i-propyl-3(2H)pyridazinone (crystals, melting point: 100°-103° C.) was prepared from 4-chloro-5-hydroxy-2-i-propyl-3(2H)pyridazinone.

reactant | 1-bromo-2-chloroethane | BrCCCl | C2H4BrCl
reactant | 4-chloro-5-(2-chloroethyloxy)-2-i-propyl-3(2H)pyridazinone | ClC=1C(N(N=CC1OCCCl)C(C)C)=O | C9H12Cl2N2O2
reactant | 4-chloro-5-hydroxy-2-i-propyl-3(2H)pyridazinone | ClC=1C(N(N=CC1O)C(C)C)=O | C7H9ClN2O2
product | 4-Chloro-5-(3-chloropropyloxy)-2-t-butyl-3(2H) pyridazinone | ClC=1C(N(N=CC1OCCCCl)C(C)(C)C)=O | C11H16Cl2N2O2
